US08466292B2
To a suspension of 1 g (1.96 mmol) of methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxylate and 0.58 g (2.55 mmol) of 2-bromo-3,5-dichloropyridine in 10 mL of a 2/1 DME/water mixture, argon is sparged through for 10 minutes, followed by successive addition of 0.81 g (5.88 mmol) of K2CO3 and 0.159 g (0.14 mmol) of Pd(PPh3)4. The reaction mixture is heated for 4 hours at 80° C. and then cooled and diluted in 50 mL of EtOAc. The organic phase is washed with 2×20 mL of water, dried over Na2SO4 and then concentrated under reduced pressure. The residue is then purified on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of from 0 to 40% EtOAc, to give 0.4 g of methyl 2′-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-3,5-dichloro-2,3′-bipyridine-6′-carboxylate in the form of an oil.

reactant | methyl 6-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxylate | 1.96 mmol, 1 g | COC1=CC=C(COC=2C=C(C=CC2Cl)C2=C(C=CC(=N2)C(=O)OC)B2OC(C(O2)(C)C)(C)C)C=C1 | C27H29BClNO6
reactant | 2-bromo-3,5-dichloropyridine | 2.55 mmol, 0.58 g | BrC1=NC=C(C=C1Cl)Cl | C5H2BrCl2N
reactant | DME water | COCCOC.O
reactant | K2CO3 | 5.88 mmol, 0.81 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.14 mmol, 0.159 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2′-[3-[(4-methoxybenzyl)oxy]-4-chlorophenyl]-3,5-dichloro-2,3′-bipyridine-6′-carboxylate | 0.4 g, Yield=38% | COC1=CC=C(COC=2C=C(C=CC2Cl)C2=NC(=CC=C2C2=NC=C(C=C2Cl)Cl)C(=O)OC)C=C1 | C26H19Cl3N2O4
